2128-08-26 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admited to MICU-6
   Pan cultured Bcx, Ucx, Stool
   ABD-CT w/ oral contrast. Negative for signs of ischemic bowel.
   Started on Levophed for persistent hypotension, not responsive to IVF.
   Stool Positive for C-diff.
   RENAL Recs: check VANC level, hold on PD for now, f/u PD cell count and
   cx, avoid placement of A-line.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-8-26**] 02:37 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-26**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 67 (67 - 99) bpm
   BP: 81/53(60) {66/29(43) - 96/65(70)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,811 mL
                                                                    305 mL
   PO:
                                                                  1,140 mL
             TF:
   IVF:
                                                                  2,671 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  3,611 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.43/42/102/24/2
   Physical Examination
   Pleasant woman in good humor, no distress, watching TV.
   EOMI, pupils equal b/l
   MMM, face symmetric, rounded, full face and neck.
   Neck supple, no carotid bruits.
   RRR, s1, s2 wnl no murmurs, rubs, or gallops
   Lungs clear b/l no rales rhonchi or wheezing
   Tunneled HD catheter in right subclavian, Left femoral line in place,
   both appear clean.
   Abd:  PD catheter in place. +BS. Diffuse tenderness, pt endorsing some
   TT percussion and rebound, but tolerating deep palpation with minimal
   discomfort. Pt able to move comfortably.
   Radial and DP pulses 1+ bilaterally. Fingertips not cyanotic, but
   mildly dusky, Cap refill 1-2 seconds.
   Labs / Radiology
   415 K/uL
   10.3 g/dL
   84 mg/dL
   8.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   29 mg/dL
   100 mEq/L
   136 mEq/L
   31.3 %
   11.7 K/uL
        [image002.jpg]
   Ca/Mg/P 6.8/2.1/2.6
   LACTATE: 2.4, 1.9, 0.8, -> 1.4
                             [**2128-8-25**]  04:15 PM
                             [**2128-8-25**]  05:28 PM
                             [**2128-8-25**]  07:55 PM
                             [**2128-8-25**]  11:30 PM
                             [**2128-8-26**]  04:00 AM
   WBC
   11.0
   11.7
   Hct
   30.0
   31.4
   26.0
   31.3
   Plt
   369
   415
   Cr
   8.2
   8.1
   TCO2
   29
   Glucose
   114
   84
   Other labs: PT / PTT / INR:51.7/54.7/6.0, Differential-Neuts:77.0 %,
   Lymph:15.2 %, Mono:5.7 %, Eos:1.7 %, Lactic Acid:1.4 mmol/L, Ca++:6.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   CXR: The cardiomediastinal silhouette is stable. The double-lumen right
   central venous line tip is in mid SVC. There is interval improvement in
   the right lower lobe linear opacity consistent with partial resolution
   of atelectasis.  Still present is right pleural effusion. No
   pneumothorax is demonstrated.
   CT-ABD: (PRELIM) 1. No evidence of mesenteric ischemia.  2. Evidence of
   third spacing, including total body wall edema. Bilateral  right
   greater than left pleural effusions.
   Assessment and Plan
   A/P:  55yo woman with ESRD and h/o C diff admitted with hypotension in
   the setting of diarrhea.
   # Hypotension: Was initially fluid responsive, then continued to have
   SBPs in the 70-80s and was started on low dose Levophed. Likely
   secondary to combination of vomiting, diarrhea, and dialysis and
   possibly infection/sepsis.  Pt [**Name (NI) 1016**] POS, though should also consider
   line infection, pneumonia, SBP.  She did have a fever recently and a
   leukocytosis on presentation, so will continue with empiric broad
   coverage antibiotics overnight.
   - attempt to wean off of Levo
   - cautious IV fluids to maintain MAP > 65 and assist weaning pressors
   - f/u blood Cx, stool Cx, PD fluid cell count and Cx
   - Continue IV vanc and flagyl
   - Given age, hypotension requiring pressors, ICU level of care and
   repeat C-diff (i.e failure of therapy) will initiate PO VANC
   # Abdominal pain: Given her hypotension and risk factors for vascular
   disease, would be concerned for bowel ischemia. Also possible SBP or PD
   fluid infection. Prelim read of CT reassuring.
   - monitor serial lactates overnight
   - monitor abdominal exam closely
   - low threshold for CT abdomen
   # Diarrhea: Has persisted over 3 months. Given POS C-diff, likely has
   had chronic infection w/ exacerbations. Will treat as above.
   # Cyanotic fingers:
   Most likely Raynaud's given history.  Has questionnable h/o lupus in
   the past, which would increase chance of Raynaud's.
   - recommend rheum f/u as outpatient
   - OT consult
   - treatment for Raynaud's (calcium channel blockers), which would be
   contraindicated given her current hypotension
   # s/p fall:
   Most likely secondary to dizziness from hypotension.
   - PT consult
   - no evidence of knee injury on exam
   # ESRD on HD and PD:
   Last HD on Monday.
   - appreciate renal recs
   - hold phos binder given low calcium and phos
   # Coagulopathy:
   On warfarin for h/o SVC syndrome, currently supratherapeutic.  Note
   that she has h/o bleed into gluteal muscle while on heparin IV and that
   RP bleed might explain her abdominal pain and hypotension.
   - type and screen
   - follow coags and Hct overnight
   - no indication for vitamin K or FFP at present
   - hold coumadin for now, restart when back in therapeutic range.
   # HTN:  Holding meds given low BP
   # h/o SVC syndrome:
   - elevated INR at present
   - monitor coags and exam
   # Right hip pain and left shoulder pain:  Chronic
   - tylenol 1000 TID
   - oxycodone for breakthrough pain
   # Left renal cyst:
   Identified during hospital stay in [**7-/2128**], MRI recommended for further
   follow-up.
   - discussed with patient's nephrologist; he is aware of need for MRI
   # Asthma:  albuterol PRN
   # Anemia: baseline hct 25-31, current Hct 30
   Most likely due to ESRD, but reportedly also has h/o iron deficiency
   anemia.
   - follow Hct as discussed above
   - pt signed blood consent
   # OSA: continue CPAP
   # Depression and anxiety:
   - continue home celexa and ativan.
   # FEN:  hold phos binder for now given low Ca and Phos
   # PPx: on warfarin; famotidine while in ICU
   # Access:  Left femoral placed in ED [**8-25**], right subclavian HD
   catheter, left PIV.
   # Code:  confirmed FULL
   # Comm:  with [**Name2 (NI) 5738**] [**Name (NI) 112**] [**Name (NI) 5739**] [**Telephone/Fax (1) 5740**]; [**First Name4 (NamePattern1) 5741**] [**Last Name (NamePattern1) 5243**]
   [**Telephone/Fax (1) 5742**] is secondary contact
   # Dispo:  anticipate to floor if hemodynamically stable in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-8-25**] 04:45 PM
   20 Gauge - [**2128-8-25**] 04:47 PM
   Dialysis Catheter - [**2128-8-25**] 04:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-08-26 10:29:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   yr old wiuth ESRD on HD and PD presents with hypotension and abd pain
   24 Hour Events:
 MULTI LUMEN - START [**2128-8-25**] 04:45 PM
 DIALYSIS CATHETER - START [**2128-8-25**] 04:49 PM
 BLOOD CULTURED - At [**2128-8-26**] 04:06 AM
   from fem line
   C diff +
   Abd CT no acute
   Started on low dose levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-8-26**] 02:37 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-8-26**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 78 (67 - 99) bpm
   BP: 100/52(64) {66/29(43) - 105/65(71)} mmHg
   RR: 17 (8 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,811 mL
                                                                    575 mL
   PO:
                                                                  1,140 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,671 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  3,611 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/42/102/24/2
   Physical Examination
   Gen: sitting in bed, conversant
   CV:RR
   Chest: decresased BS at right base
   Abd: soft mild tnderness to deep palp in RLQ
   Ext: no edema, no fibger cyanosis
   Labs / Radiology
   10.3 g/dL
   415 K/uL
   84 mg/dL
   8.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   29 mg/dL
   100 mEq/L
   136 mEq/L
   31.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2128-8-25**]  04:15 PM
                             [**2128-8-25**]  05:28 PM
                             [**2128-8-25**]  07:55 PM
                             [**2128-8-25**]  11:30 PM
                             [**2128-8-26**]  04:00 AM
   WBC
   11.0
   11.7
   Hct
   30.0
   31.4
   26.0
   31.3
   Plt
   369
   415
   Cr
   8.2
   8.1
   TCO2
   29
   Glucose
   114
   84
   Other labs: PT / PTT / INR:51.7/54.7/6.0, Differential-Neuts:77.0 %,
   Lymph:15.2 %, Mono:5.7 %, Eos:1.7 %, Lactic Acid:1.4 mmol/L, Ca++:6.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIARRHEA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ANEMIA, CHRONIC
 .H/O SUPERIOR VENA CAVA SYNDROME (SVC)
   55 yr old ESRD pt presents with hypotension
   1.       Hypotension: DDx dehydration in setting of aggressive PD along
   with HD and severe diarrhea from C diff, was is fluid responsive
   initially btu required low dose levophed starting last PM to maintain a
   MAP of 60
will try to wean this AM. Trend lactate. For infectious
   sources, C diff clear, but  will also rule out PD infection
 check
   cell count follow up cx, blood cx as well.
   2.       C Diff: IV Flagyl and po Vanco- stable abd exam, follow up
   final read of Abd CT
 suricaal consult if she deteriorates
   3.       ESRD: resume PD today
   4.       Coagulopathy: holding coumadin, no sign of active bleeding at
   present, HCT stable, trend inr, IV Vit and FFP for active bleeding. Non
   con abd ct looking for RP bleed or
   5.       Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-8-25**] 04:45 PM
   20 Gauge - [**2128-8-25**] 04:47 PM
   Dialysis Catheter - [**2128-8-25**] 04:49 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: ppi
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40

2128-08-27 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NSVT: pt had 30beat run of NSVT at 2300, asymptomatic, EKG showed
   inverted TW in inferior leads suggestive of SVT with aberrancy. TTE
   this am showed biventricular preserved global and regional [**Last Name (LF) 5782**], [**First Name3 (LF) 300**]
   >55%, mild pulm HTN.
   HYPOTENSION: Decreased Levo gtt to 0.04mcg/kg/min ON and d/c
d this am,
   MAP stayed >60 since.
   PD: 1 round PD performed ON
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-8-26**] 02:37 AM
   Infusions:
   d/c
ed-Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No SOB
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, Diarrhea,
   Pain diffusely at 6-7, yet greater around PD insertion site; Watery
   BMx2
   Musculoskeletal: Pain over right gluteus increased this am-->over right
   groin
   Flowsheet Data as of  [**2128-8-27**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 90 (65 - 91) bpm
   BP: 121/64(78) {86/43(55) - 128/76(83)} mmHg
   RR: 21 (8 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,816 mL
                                                                    111 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,636 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,516 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Pleasant, Lying in bed sleeping, Well nourished, No
   acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, EOMI, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, MMM, mild facial edema
   Lymphatic: No(t) Cervical adenopathy
   Chest: Tunneled HD cath in R SCL un-sutured, stable, no signs of infxn
   CVS: RRR, no MRG
   Resp: CTAB, no WRR
   Abdominal: No(t) Soft, Bowel sounds present, No(t) Distended, Tender:
   Tender diffusely to deep palp, increased over PD site, no signs of
   infection over site, no rebound or guarding
   Extremities: Right: 1+, Left: 1+, Dusky fingertips, not cyanotic
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Movement: Purposeful,
   No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   395 K/uL
   10.2 g/dL
   74 mg/dL
   7.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   235mg/dL
   102 mEq/L
   135 mEq/L
   31.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2128-8-25**]  04:15 PM
                             [**2128-8-25**]  05:28 PM
                             [**2128-8-25**]  07:55 PM
                             [**2128-8-25**]  11:30 PM
                             [**2128-8-26**]  04:00 AM
   WBC
   11.0
   11.7
   Hct
   30.0
   31.4
   26.0
   31.3
   Plt
   369
   415
   Cr
   8.2
   8.1
   TCO2
   29
   Glucose
   114
   84
   Other labs: PT / PTT / INR:44.9/57.5/5.0, Differential-Neuts:77.0 %,
   Lymph:15.2 %, Mono:5.7 %, Eos:1.7 %, Lactic Acid:1.2 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL; Trop T-0.07; CK 41
   TTE: no wall abnormalities, preserved bivent [**Last Name (LF) 5782**], [**First Name3 (LF) 300**] >55%
   Assessment and Plan
   A/P:  55yo woman with ESRD admitted with hypotension and C diff
   colitis.
   #NSVT: Asymptomatic 30beat run, resolved without treatment, EKG
   suggests SVT with aberrancy, CEx1 neg, TTE showed no evidence of
   ischemia.
   -          Continue to monitor on tele.
   -          Replete lytes
   # Hypotension: Levophed d/c
ed with MAP maintaining >65. Initial low BP
   likely secondary to combination of vomiting, diarrhea, and dialysis and
   possibly infection/sepsis.  Pt [**Name (NI) 1016**] POS.  Afebrile ON.
   - BCx and peritoneal Cx NGTD
   - cautious IV fluids to maintain MAP > 65 (pt is anuric)
   - Continue Vanco 125mg PO q6hr and Flagyl 500mg IV q8
   # Abdominal pain: Given her hypotension and risk factors for vascular
   disease, concerned for bowel ischemia, CT negative for mesenteric
   ischemia. Also possible SBP or PD fluid infection. Lactate WNL yest.
   - follow cultures.
   - monitor abdominal exam closely
   # Diarrhea: Has persisted over 3 months. Given POS C-diff, likely has
   had chronic infection w/ exacerbations. 2 episodes last night.
   - Will treat as above.
   # Cyanotic fingers:
   Most likely Raynaud's given history.  Has questionnable h/o lupus in
   the past, which would increase chance of Raynaud's. Appreciate OT c/s
   with recs to f/u with outpt rheum
   - recommend rheum f/u as outpatient
   - treatment for Raynaud's (calcium channel blockers), which would be
   contraindicated given her current hypotension
   # s/p fall:
   Most likely secondary to dizziness from hypotension.
   - PT consult pending
   - no evidence of knee injury on exam
   # ESRD on HD and PD:
   Last HD on Monday.
   -Possible HD today per Renal
   - appreciate renal recs
   - hold phos binder given low calcium and phos
   # Coagulopathy:
   On warfarin for h/o SVC syndrome, currently supratherapeutic at 5.0.
   h/o bleed into gluteal muscle while on heparin IV
   - follow coags and Hct overnight
   - no indication for vitamin K or FFP at present
   - hold coumadin for now, restart when back in therapeutic range.
   # HTN:  Holding meds given low BP
   # h/o SVC syndrome:
   - elevated INR at present
   - monitor coags and exam
   # Right hip pain and left shoulder pain:  Chronic; Right hip pain
   related to prior hematoma, continuing pain
   - tylenol 1000 TID
   - oxycodone for breakthrough pain
   # Left renal cyst:
   Identified during hospital stay in [**7-/2128**], MRI recommended for further
   follow-up.
   - discussed with patient's nephrologist; he is aware of need for MRI
   # Asthma:  albuterol PRN
   # Anemia: baseline hct 25-31, current Hct 31.8
   Most likely due to ESRD, but reportedly also has h/o iron deficiency
   anemia.
   - follow Hct as discussed above
   - pt signed blood consent
   # OSA: continue CPAP
   # Depression and anxiety:
   - continue home celexa and ativan.
   # FEN:  hold phos binder for now given low Ca and Phos
   # PPx: holding warfarin; supratherapeutic INR; famotidine while in ICU
   # Access:  Left femoral placed in ED [**8-25**] (if pt
s BP is stable and is
   called out, femoral line will be pulled before leaving unit) , right
   subclavian HD catheter, left PIV.
   # Code:  confirmed FULL
   # Comm:  with [**Name2 (NI) 5738**] [**Name (NI) 112**] [**Name (NI) 5739**] [**Telephone/Fax (1) 5740**]; [**First Name4 (NamePattern1) 5741**] [**Last Name (NamePattern1) 5243**]
   [**Telephone/Fax (1) 5742**] is secondary contact
   # Dispo:  anticipate to floor if hemodynamically after HD
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5783**] MSIV [**Pager number 5784**]
   Agree with excellent MS 4 note above and made additions as necessary in
   body of note.
   [**First Name8 (NamePattern2) 361**] [**Last Name (NamePattern1) 512**], MD

2128-08-27 09:38:00 Physician Attending Progress Note
Chief Complaint: C diff and hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Run of SVT with aberrancy yest evening - stable BPs
   Able to wean levophed yest eveing and just shut off this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-8-26**] 02:37 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2128-8-27**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 71 (65 - 91) bpm
   BP: 120/71(84) {86/43(55) - 128/76(84)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,816 mL
                                                                    150 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,636 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                   -100 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,516 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   395 K/uL
   84 mg/dL
   8.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   29 mg/dL
   100 mEq/L
   136 mEq/L
   31.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2128-8-25**]  04:15 PM
                             [**2128-8-25**]  05:28 PM
                             [**2128-8-25**]  07:55 PM
                             [**2128-8-25**]  11:30 PM
                             [**2128-8-26**]  04:00 AM
                             [**2128-8-27**]  08:30 AM
   WBC
   11.0
   11.7
   11.6
   Hct
   30.0
   31.4
   26.0
   31.3
   31.8
   Plt
   [**Telephone/Fax (3) 5777**]
   Cr
   8.2
   8.1
   TCO2
   29
   Glucose
   114
   84
   Other labs: PT / PTT / INR:44.9/51.5/5.0, Differential-Neuts:77.0 %,
   Lymph:15.2 %, Mono:5.7 %, Eos:1.7 %, Lactic Acid:1.2 mmol/L, Ca++:6.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIARRHEA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ANEMIA, CHRONIC
 .H/O SUPERIOR VENA CAVA SYNDROME (SVC)
 FALL(S)
   55 yr old ESRD pt presents with hypotension
   1.       Hypotension: DDx dehydration in setting of aggressive PD along
   with HD and severe diarrhea from C diff, was  fluid responsive
   initially but required low dose levophed starting last PM to maintain a
   MAP of 60
will try to wean this AM. Trend lactate. For infectious
   sources, C diff clear, but  will also rule out PD infection
 check
   cell count follow up cx, blood cx as well.
   2.       C Diff: IV Flagyl and po Vanco- stable abd exam, follow up
   final read of Abd CT
 surgical consult if she deteriorates
   3.       ESRD: resume PD today
   4.       Coagulopathy: holding coumadin, no sign of active bleeding at
   present, HCT stable, trend inr, IV Vit and FFP for active bleeding.
   5.       Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-8-25**] 04:45 PM
   Dialysis Catheter - [**2128-8-25**] 04:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: